US06890942B2
3-Hydroxy-4-oxo-4-(1-propyl-cyclopropanesulfonylamino)-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 1-propyl-cyclopropanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. MS (M−H) calcd for C18H22FN2O6S: 413.1. Found: 413.0. 1H NMR (500 MHz, CDCl3) δ: 0.92 (t, 3, J=8), 1.00 (m, 2), 1.54 (m, 2), 1.74 (m, 2), 1.84 (m, 2), 3.68 (s, 3), 4.79 (s, 2), 6.54 (s, 1), 7.04 (m, 2), 7.29 (m, 2), 8.79 (s, 1). Anal calcd for C18H23FN2O6S: C, 52.16; H, 5.59; N, 6.76. Found: C, 52.20; H, 5.69; N, 6.66.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 1-propyl-cyclopropanesulfonic acid amide | C(CC)C1(CC1)S(=O)(=O)N | C6H13NO2S
product | 3-Hydroxy-4-oxo-4-(1-propyl-cyclopropanesulfonylamino)-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(NS(=O)(=O)C2(CC2)CCC)=O)O)=O)OC)C=C1 | C18H23FN2O6S
